US06759554B2
1-Bromo-2-benzyloxybenzene
A test tube was charged with CuI (20 mg, 0.10 mmol, 0.10 equiv), 1,10-phenanthroline (36 mg, 0.20 mmol, 0.20 equiv), Cs2CO3 (456 mg, 1.4 mmol, 1.4 equiv), benzyl alcohol (207 μL, 2.0 mmol, 2.0 equiv), 2-bromo-iodobenzene (128 μL, 1.0 mmol, 1.0 equiv) and toluene (0.5 mL). The test tube was sealed and the reaction mixture was stirred at 110° C. for 36 h. The resulting suspension was cooled to room temperature and filtered through a 1×1 cm pad of silica gel, eluting with dichloromethane. The filtrate was concentrated in vacuo. Purification of the residue by flash chromatography on silica gel (2×20 cm; pentane:dichloromethane 2:1) provided 187 mg (71% yield) of the title compound as a colorless oil.

reactant | 1,10-phenanthroline | 0.20 mmol, 36 mg, 0.20 equiv | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | Cs2CO3 | 1.4 mmol, 456 mg, 1.4 equiv | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | benzyl alcohol | 2.0 mmol, 207 μL, 2.0 equiv | C(C1=CC=CC=C1)O | C7H8O
reactant | 2-bromo-iodobenzene | 1.0 mmol, 128 μL, 1.0 equiv | BrC1=C(C=CC=C1)I | C6H4BrI
catalyst | CuI | 0.10 mmol, 20 mg, 0.10 equiv | [Cu]I
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
product | 1-Bromo-2-benzyloxybenzene | 187 mg, 71% yield | BrC1=C(C=CC=C1)OCC1=CC=CC=C1 | C13H11BrO
